US05266705
To a 200 ml four-necked flask, equipped with a stirrer, a thermometer and a reflux condenser, were added 11.7 g (150 m moles) of anhydrous sodium sulfide, 3.2 g (100 m moles) of sulfur and 100 ml of N-methylpyrrolidone, and the mixture was stirred at room temperature for one hour. To the reaction mixture was dropwise added 14.1 g (100 m moles) of 2-chlorobenzaldehyde, and the mixture was stirred at room temperature for 12 hours. To the reaction mixture, was dropwise added 11.1 g (120 m moles) of chloroacetone with cooling, and the reaction mixture was stirred at room temperature for 6 hours. After finishing the reaction, 100 ml of diethyl ether and 100 ml of water were added to the reaction mixture, and pH value of the aqueous layer was adjusted to higher than 11 with a sodium hydroxide aqueous solution, and extracted with diethyl ether. The diethyl ether extract was washed twice with water, and the diethyl ether layer was concentrated under a reduced pressure to obtain 13.0 g of 2-acetylbenzo[b]thiophene (yield 74%). Purity of the product was 95% as determined by gas chromatography.

reactant | sodium sulfide | 11.7 g | [S-2].[Na+].[Na+]
reactant | sulfur | 3.2 g | [S] | S
reactant | 2-chlorobenzaldehyde | 14.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | chloroacetone | 11.1 g | ClCC(C)=O | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | N-methylpyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 2-acetylbenzo[b]thiophene | 13.0 g, yield 74% | C(C)(=O)C1=CC2=C(S1)C=CC=C2 | C10H8OS
